US08871753B2
Step A: 6-Chloro-12-iodo-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene
To a solution of 6-chloro-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine trihydrochloride (161 mg, 0.359 mmol) in 2.0 M of sulfuric acid in water (1.8 mL, 3.59 mmol) was added a solution of sodium nitrite (37.2 mg, 0.539 mmol) in water dropwise at 0° C. The reaction solution was stirred at same temperature for 1 h, then a solution of potassium iodide (89.4 mg, 0.539 mmol) in water was added at 0° C. The reaction solution was stirred at room temperature for 48 h. The precipitate was filtered and washed by water and dried under vacuum to give the desired product (103 mg, 64%). LCMS for C17H14ClIN5(M+H)+: m/z=450.1.

reactant | 6-chloro-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine trihydrochloride | 0.359 mmol, 161 mg | Cl.Cl.Cl.ClC=1C=NC=2NC=3C=NC=C(CCC4=C(C=CC(NC1N2)=C4)N)C3
reactant | sodium nitrite | 0.539 mmol, 37.2 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.539 mmol, 89.4 mg | [I-].[K+]
solvent | sulfuric acid | 2.0 M | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | water | 3.59 mmol, 1.8 mL | O | H2O
product | 6-Chloro-12-iodo-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 103 mg, 64% | ClC=1C=NC=2NC=3C=NC=C(CCC4=C(C=CC(NC1N2)=C4)I)C3 | C17H13ClIN5
